US07750161B2
C12. (2,6-Dimethyl-pyridin-4-yl)-carbamic acid pentafluorophenyl ester
A solution of 2,6-dimethyl-pyridin-4-ylamine (Example C1.2., 1.23 g, 10 mmol) in THF (30 mL) is slowly added to a cooled (−10° C.) solution of bis(pentafluorophenyl)carbonate (3.94 g, 10 mmol) in THF (10 mL). The mixture is stirred at r.t. for 48 h and the solution of title compound is used as stock solution for subsequent coupling reactions.

reactant | 2,6-dimethyl-pyridin-4-ylamine | 10 mmol, 1.23 g | CC1=NC(=CC(=C1)N)C | C7H10N2
reactant | bis(pentafluorophenyl)carbonate | 10 mmol, 3.94 g | FC1=C(C(=C(C(=C1OC(OC1=C(C(=C(C(=C1F)F)F)F)F)=O)F)F)F)F | C13F10O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2,6-Dimethyl-pyridin-4-yl)-carbamic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(NC1=CC(=NC(=C1)C)C)=O)F)F)F)F | C14H9F5N2O2
